US05252571
Ethyl 2-[4-(5-fluorobenzothiazol-2-yl)methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl]acetate
Under ice cooling, 1.01 g of ethyl 2-(3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate was added to a suspension of 176 mg of sodium hydride (60% in mineral oil) in 7 ml of N,N-dimethylformamide. The mixture was stirred for 30 minutes. After a solution of 1.08 g of 2-bromomethyl-5-fluorobenzothiazole in 3 ml of N,N-dimethylformamide was added dropwise to the mixture, the mixture was stirred at room temperature overnight. Thereafter the reaction mixture was poured onto ice water, and then extracted with ethyl acetate. The ethyl acetate layer was washed with water. After the drying of the organic layer over anhydrous magnesium sulfate, the solvent was distilled off. The resulting oily residue was purified by silica gel chromatography to give 1.11 g of the title compound. The structural formula and physical data of this compound are shown in Table 7.

reactant | ethyl 2-(3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate | 1.01 g | O=C1C(SC2=C(N1)C=CC=C2)CC(=O)OCC | C12H13NO3S
reactant | sodium hydride | 176 mg | [H-].[Na+]
reactant | 2-bromomethyl-5-fluorobenzothiazole | 1.08 g | BrCC=1SC2=C(N1)C=C(C=C2)F | C8H5BrFNS
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[4-(5-fluorobenzothiazol-2-yl)methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl]acetate | 1.11 g | FC=1C=CC2=C(N=C(S2)CN2C(C(SC3=C2C=CC=C3)CC(=O)OCC)=O)C1 | C20H17FN2O3S2
